* ELDO netlist generated with ICnet by 'bxl1703' on Fri Sep 13 2019 at 09:52:37

.CONNECT GROUND 0

*
* Globals.
*
.global GROUND

*
* MAIN CELL: Component pathname : $PYXIS_SPT/digicdesign/mirroradder
*
        M21 N$185 CIN N$182 GROUND nmos w=0.7u l=0.13u m=1 as=0.238p ad=0.238p
+  ps=1.38u pd=1.38u
        M29 S N$185 GROUND GROUND nmos w=0.26u l=0.13u m=1 as=88.4f ad=88.4f
+  ps=0.94u pd=0.94u
        M3 N$132 B VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M2 N$132 A VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M1 N$131 A GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M28 N$185 N$37 N$106 GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p
+  ad=0.1768p ps=1.2u pd=1.2u
        M23 N$183 A GROUND GROUND nmos w=0.7u l=0.13u m=1 as=0.238p ad=0.238p
+  ps=1.38u pd=1.38u
        M22 N$182 B N$183 GROUND nmos w=0.7u l=0.13u m=1 as=0.238p ad=0.238p
+  ps=1.38u pd=1.38u
        M27 N$106 B GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M25 N$106 A GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M12 N$161 B N$156 VDD pmos w=1.56u l=0.13u m=1 as=0.5304p ad=0.5304p
+  ps=2.24u pd=2.24u
        M26 N$106 CIN GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p
+  ad=0.1768p ps=1.2u pd=1.2u
        M20 N$185 CIN N$161 VDD pmos w=1.56u l=0.13u m=1 as=0.5304p ad=0.5304p
+  ps=2.24u pd=2.24u
        C2 S GROUND 0
        C1 COUT GROUND 0
        M19 COUT N$37 GROUND GROUND nmos w=0.26u l=0.13u m=1 as=88.4f ad=88.4f
+  ps=0.94u pd=0.94u
        M18 COUT N$37 VDD VDD pmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M17 N$37 A N$26 GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M16 N$26 B GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M15 N$131 B GROUND GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M14 N$37 CIN N$131 GROUND nmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M13 S N$185 VDD VDD pmos w=0.52u l=0.13u m=1 as=0.1768p ad=0.1768p
+  ps=1.2u pd=1.2u
        M11 N$156 A VDD VDD pmos w=1.56u l=0.13u m=1 as=0.5304p ad=0.5304p
+  ps=2.24u pd=2.24u
        M10 N$185 N$37 N$121 VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M9 N$121 B VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M8 N$121 CIN VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M7 N$121 A VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M6 N$37 A N$125 VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M5 N$125 B VDD VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
        M4 N$37 CIN N$132 VDD pmos w=1.04u l=0.13u m=1 as=0.3536p ad=0.3536p
+  ps=1.72u pd=1.72u
*
.end
