* Component: $PYXIS_SPT/digicdesign/nmosiv Viewpoint: default

.INCLUDE "$PYXIS_SPT/digicdesign/nmosiv/default/netlist.spi"
.INCLUDE "$GENERIC13/models/include_all"
.OPTION AEX
.OPTION ENGNOT
.OPTION LIMPROBE=10000
.OPTION NOASCII

* - Analysis Setup - DCOP
.OPTION PROBEOP2
.OP

* - Analysis Setup - DC
.DC VFORCE__VD 0 1.2 0.01
+ VFORCE__VG 0 1.2 0.3

* --- Forces
VFORCE__Vg VG GROUND DC 1.2
VFORCE__Vd VD GROUND DC 1.2

* --- Global Outputs
.PROBE V SG

* --- Waveform Outputs
.PLOT DC I(M1.D)

* --- Params
.TEMP 25

* --- Libsetup
.LIB KEY=MOS "$GENERIC13/models/lib.eldo" TT
.LIB KEY=MOS_33 "$GENERIC13/models/lib.eldo" TT_33
.LIB KEY=MOS_lvt "$GENERIC13/models/lib.eldo" TT_lvt
.LIB KEY=MOS_hvt "$GENERIC13/models/lib.eldo" TT_hvt
.LIB KEY=BIP "$GENERIC13/models/lib.eldo" TT_BIP
.LIB KEY=BIP_NPN "$GENERIC13/models/lib.eldo" TT_BIP_NPN
.LIB KEY=RES "$GENERIC13/models/lib.eldo" TT_RES
